US07037935B2
d) (RS)-1-[(4-(3-Fluoro-benzyloxy)-3-methyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl amide
In analogy to the aminolysis described in Example 1e), the (RS)-1-[(4-(3-fluoro-benzyloxy)-3-methyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester is treated in a sealed tube with methylamine in ethanol at 60° C. for 18 h to yield the

reactant | (4-(3-fluoro-benzyloxy)-3-methyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)C1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)C | C20H20FNO4
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | (4-(3-Fluoro-benzyloxy)-3-methyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl amide | CNC(=O)C1CN(C(C1)=O)C1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)C | C20H21FN2O3
